US04140659
Preparation of Bis-(vinylbenzyl) Monomethylamine
20 grams (0.5 mole) of 98.2% sodium hydroxide pellets are dissolved, with stirring and cooling to a temperature maintained at 10° C., in a saturated solution of monomethylamine (large excess greater than one mole), which is prepared by bubbling gaseous monomethylamine into 200 ml. of distilled water at 10° C. until saturated. Then, 77.8 grams (0.5 mole) of 98% vinylbenzyl chloride are added at a uniform rate over a period of 30 minutes while maintaining the batch temperature below 20° C. Upon removing external cooling, the batch temperature rises to 32° C. in one hour as a result of an exotherm. The batch is then agitated at ambient temperature (26° C.) overnight. On stopping agitation, the phases cleanly separate within a period of one hour. The lower aqueous layer of 250 grams is withdrawn and discarded. The upper product layer of 50 grams is washed with three successive 100 ml. portions of water adjusted to a pH of 8.9, followed by one 100 ml. portion of distilled water (neutral pH). (Without the pH adjustment of the initial three wash portions, some foaming and emulsification occurs.) The washed product layer is then dried over calcium chloride and anhydrous sodium sulfate. Upon removing the drying agent, 38 grams of product is obtained. Analyses showed this material to have the following properties:

reactant | sodium hydroxide | 0.5 mole, 20 grams | [OH-].[Na+]
reactant | monomethylamine | greater than one mole | CN | CH5N
reactant | vinylbenzyl chloride | 0.5 mole, 77.8 grams | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
product | Bis-(vinylbenzyl) Monomethylamine | 38 grams | C(=C)C(C1=CC=CC=C1)N(C)C(C1=CC=CC=C1)C=C | C19H21N
